US06329389B1
N,N-Dimethyl-7-benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide
To a solution of 7-benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid (7.0 g) in acetonitrile (80 ml) and THF (80 ml) were added dimethylamine hydrochloride (2.52 g), WSC(5.92 g), HOBt (3.15 g), and triethylamine (18 ml) subsequently at room temperature. The reaction mixture was stirred at room temperature for 10 hours, diluted with water, and extracted with combined solvent of ethyl acetate and THF. The organic layer was washed with 1N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate, water, saturated aqueous sodium chloride subsequently, dried, and concentrated. The precipitated crystals were washed with IPE to obtain the entitled compound (5.88 g).

reactant | 7-benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid | 7.0 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2CC(C(NC2=C1)=O)C(=O)O | C18H16N2O5
reactant | dimethylamine hydrochloride | 2.52 g | Cl.CNC
reactant | WSC | 5.92 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 18 ml | C(C)N(CC)CC | C6H15N
product | N,N-Dimethyl-7-benzyloxycarbonylamino-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide | 5.88 g | CN(C(=O)C1C(NC2=CC(=CC=C2C1)NC(=O)OCC1=CC=CC=C1)=O)C | C20H21N3O4
